US07022689B2
To a stirred solution of 0.11 g of ethyl 3-aminopropionate hydrochloride in 10 mL of N,N-dimethylformamide were added 0.072 ml of triethylamine, 0.30 g of [[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]amino]acetic acid, and 0.121 g of 1-hydroxybenzotriazole monohydrate under ice-cooling, and the mixture was stirred at 5minutes. To the mixture was added 0.140 g of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride under the same condition, and the mixture was stirred at room temperature for 7 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 0.278 g of ethyl 3-[2-[[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]amino]acetylamino]propionate.

reactant | ethyl 3-aminopropionate hydrochloride | 0.11 g | Cl.NCCC(=O)OCC
reactant | [[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]amino]acetic acid | 0.30 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)NCC(=O)O)O | C20H23N3O5S
reactant | 1-hydroxybenzotriazole monohydrate | 0.121 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.140 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.072 ml | C(C)N(CC)CC | C6H15N
product | ethyl 3-[2-[[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]amino]acetylamino]propionate | 0.278 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)NCC(=O)NCCC(=O)OCC)O | C25H32N4O6S
